US08426414B2
Part A: [(1S,2S)-1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester
A mixture of trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid (120 mg, 0.55 mmol) in thionyl chloride (2 mL) was heated at reflux for over night. The mixture was concentrated and dried under high vacuum for 3 h. Then the residue was dissolved in DCM (3 mL) and added dropwise to a solution of {(1S,2S)1-[(4-Bromo-phenylamino)-methyl]-2-methyl-butyl}-carbamic acid tert-butyl ester (205 mg, 0.55 mmol) and triethyl amine (153 uL, 1.1 mmol) in DCM (3 mL). The resulting mixture was stirred at rt for overnight. The reaction mixture was concentrated and the residue was subjected to ISCO (12 g column, 0-40% EtOAc in hexane over 25 min.) to give the desired product (235 mg, 80%). MS (MH+ 534 and 536).

reactant | trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid | 0.55 mmol, 120 mg | FC1=CC=CC(=N1)[C@H]1[C@@H](C1)C(=O)O | C9H8FNO2
reactant | {(1S,2S)1-[(4-Bromo-phenylamino)-methyl]-2-methyl-butyl}-carbamic acid tert-butyl ester | 0.55 mmol, 205 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CNC1=CC=C(C=C1)Br)=O | C17H27BrN2O2
reactant | triethyl amine | 1.1 mmol, 153 uL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | [(1S,2S)-1-({(4-Bromo-phenyl)-[trans-2-(6-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester | 235 mg, 80% | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)[C@H]1[C@@H](C1)C1=NC(=CC=C1)F)C1=CC=C(C=C1)Br)=O | C26H33BrFN3O3
